US04742060
At room temperature 11 g of 1-methyl-4-pyrazole carbaldehyde was slowly added to 37 g of ethylenediamine in 150 ml of dry acetonitrile. Molecular sieves 4A (a product of Wako Pure Chemicals, Co.) were added as a dehydrating agent to the solution. The mixture was stirred at room temperature for 2 hours, and filtered. Acetonitrile was distilled off under reduced pressure from the filtrate. To the residue was added 100 ml of ethanol, and then 4 g of sodium borohydride was added little by little at room temperature. The mixture was then stirred at room temperature for 2 hours, and ethanol was distilled off under reduced pressure. Water was added to the residue, and the mixture was extracted with dichloromethane. The solvent was distilled off from the dichloromethane layer, and the residue was vacuum-distilled to give 10 g of N-(1-methyl-4-pyrazolylmethyl)trimethylenediamine as a colorless oil.

reactant | 1-methyl-4-pyrazole carbaldehyde | 11 g | CN1N=CC(=C1)C=O | C5H6N2O
reactant | ethylenediamine | 37 g | C(CN)N | C2H8N2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-(1-methyl-4-pyrazolylmethyl)trimethylenediamine | 10 g | CN1N=CC(=C1)CNCCCN | C8H16N4
